US08541411B2
a) 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine
A mixture of 4-(2-methyl-3-(naphthalen-1-ylmethyl)-7-nitro-3H-benzo[d]imidazol-5-yl)morpholine (804 mg), prepared as described in Example 2, iron powder (168 mg) and FeSO4 (84 mg) in ethanol (30 mL) and H2O (30 mL) was stirred at reflux temperature overnight. The mixture was cooled to room temperature and the solvent was removed in-vacuo. The residue was dissolved in DCM and filtered. The filtrate was then washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in-vacuo to afford the desired product as a solid (720 mg, 97%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.33 (s, 3H), 2.91 (t, 4H J=4.8 Hz), 3.64 (t, 4H J=4.8 Hz), 5.15 (br s, 2H), 5.83 (s, 2H), 6.10 (d, 1H, J=2.1 Hz), 6.12 (d, 1H, J=2.1 Hz), 6.38 (d, 1H, J=7.5 Hz), 7.34 (t, 1H, J=7.5 Hz), 7.58-7.68 (m, 2H), 7.84 (d, 1H, J=8.4 Hz), 8.01 (d, 1H, J=7.5 Hz), 8.23 (d, 1H, J=8.4 Hz); LC-MS: m/e=373 [M+1]+

reactant | 4-(2-methyl-3-(naphthalen-1-ylmethyl)-7-nitro-3H-benzo[d]imidazol-5-yl)morpholine | 804 mg | CC=1N(C2=C(N1)C(=CC(=C2)N2CCOCC2)[N+](=O)[O-])CC2=CC=CC1=CC=CC=C21 | C23H22N4O3
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | H2O | 30 mL | O | H2O
catalyst | iron | 168 mg | [Fe] | Fe
product | 2-methyl-6-morpholino-1-(naphthalen-1-ylmethyl)-1H-benzo[d]imidazol-4-amine | 720 mg, 97% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2N)N2CCOCC2 | C23H24N4O
